US09260418B2
3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-[(6-vinylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one was prepared by the procedure described for the synthesis of 3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-{[6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one in Example 4, substituting potassium vinyltrifluoroborate for 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole.

reactant | 3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-{[6-(1-methyl-1H-pyrazol-4-yl)pyridine-3-yl]methyl}benzo[h]quinazolin-4(3H)-one | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)C=1C=NN(C1)C)C=CC=C3 | C27H25N5O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-[(6-vinylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)C=C)C=CC=C3 | C25H23N3O3
